US07589206B2
(b) 4-Bromo-7-chloro-3-methyl-1H-pyrrolo[2,3-c]pyridine
To a solution of 5-bromo-2-chloro-3-nitro-pyridine, (10.28 g) in dry tetrahydrofuran (450 ml) at −78° C. under an atmosphere of nitrogen was added dropwise, a solution of 1-propenylmagnesium bromide (0.5M in tetrahydrofuran; 305 ml), keeping the internal temperature below −70° C. The solution was allowed to warm to −40° C. over 1 h then quenched with saturated ammonium chloride (350 ml). The aqueous was extracted twice with ethyl acetate (2×200 ml) and the combined organics were dried (MgSO4), filtered and evaporated to give a brown oil. The mixture was dissolved in ether, a solid filtered off then evaporated. The residue was dissolved in ether, loaded onto four Biotage silica samplets and purified by Biotage chromatography over silica gel (4×100 g), eluting with 10% ethyl acetate/isohexane (1 L) followed by 15% ethyl acetate/isohexane (1 L). The fractions containing product from the four columns were combined and evaporated to afford an orange solid. The orange solid was triturated with isohexane, filtered and washed with isohexane and dried to give the title compound as an off white solid. (1.07 g).

reactant | 5-bromo-2-chloro-3-nitro-pyridine | 10.28 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | 1-propenylmagnesium bromide | 0.5M, 305 ml | C(=CC)[Mg]Br
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Bromo-7-chloro-3-methyl-1H-pyrrolo[2,3-c]pyridine | BrC1=C2C(=C(N=C1)Cl)NC=C2C | C8H6BrClN2
